US07034039B2
To a solution of 4-butoxy-3-{{(tert-butoxycarbonyl)-amino}methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid (synthesized according to the method similar to that in Example 76 (1)) (0.45 g, 3.5 mmol) and N-methylmorpholine (0.13 ml, 1.2 mmol) in tetrahydrofuran (10 ml) was added ethyl chloroformate (0.12 ml, 1.2 mmol) at 0° C., and the mixture was stirred at 0° C. for 10 min. To the obtained mixture was added sodium tetrahydroborate (0.11 g, 3 mmol) and the mixture was stirred at 0° C. for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate-diisopropyl ether to give tert-butyl(4-butoxy-6-hydroxymethyl-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.33 g, 76.7%) as crystals.

reactant | 4-butoxy-3-{{(tert-butoxycarbonyl)-amino}methyl}-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinecarboxylic acid | C(CCC)OC1=C(N(C(C2=CC=C(C=C12)C(=O)O)=O)CC(C)C)CNC(=O)OC(C)(C)C | C24H34N2O6
reactant | N-methylmorpholine | 1.2 mmol, 0.13 ml | CN1CCOCC1 | C5H11NO
reactant | ethyl chloroformate | 1.2 mmol, 0.12 ml | ClC(=O)OCC | C3H5ClO2
reactant | sodium tetrahydroborate | 3 mmol, 0.11 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | tert-butyl(4-butoxy-6-hydroxymethyl-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.33 g, 76.7% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)CO)=O)CC(C)C)=O | C24H36N2O5
